US05026853
A mixture of 4.72 parts of 3-[5-chloro-1-(4-fluorophenyl)pentyl]pyridine, 5.62 parts of 3-(aminocarbonyl)-N-[4-(aminocarbonyl)-2,6-dichlorophenyl]-1-piperazineacetamide, 1.58 parts of sodium carbonate, 0.1 parts of potassium iodide and 90 parts of N,N-dimethylacetamide was stirred for 48 hours at ±90° C. After evaporation, the residue was taken up in water and the product was extracted twice with dichlormethane. The combined extracts were washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (93:7 by volume) as eluent. The first fraction was collected and the eluent was evaporated. The residue was converted into the hydrochloride salt in 2-propanol. The salt was filtered off and dried, yielding 2.3 parts (20.9%) of 3-aminocarbonyl)-N-[4-(aminocarbonyl)-2,6-dichlorophenyl]-4-[5-(4-fluorophenyl)-5-(3-pyridinyl)pentyl]-1-piperazineacetamide trihydrochloride, dihydrate; mp. 173.0° C. (compound 43).

reactant | 3-[5-chloro-1-(4-fluorophenyl)pentyl]pyridine | ClCCCCC(C1=CC=C(C=C1)F)C=1C=NC=CC1 | C16H17ClFN
reactant | 3-(aminocarbonyl)-N-[4-(aminocarbonyl)-2,6-dichlorophenyl]-1-piperazineacetamide | NC(=O)C1CN(CCN1)CC(=O)NC1=C(C=C(C=C1Cl)C(=O)N)Cl | C14H17Cl2N5O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | N-[4-(aminocarbonyl)-2,6-dichlorophenyl]-4-[5-(4-fluorophenyl)-5-(3-pyridinyl)pentyl]-1-piperazineacetamide trihydrochloride | Cl.Cl.Cl.NC(=O)C1=CC(=C(C(=C1)Cl)NC(CN1CCN(CC1)CCCCC(C=1C=NC=CC1)C1=CC=C(C=C1)F)=O)Cl | InChI=1S/C29H32Cl2FN5O2.3ClH/c30-25-16-22(29(33)39)17-26(31)28(25)35-27(38)19-37-14-12-36(13-15-37)11-2-1-5-24(21-4-3-10-34-18-21)20-6-8-23(32)9-7-20;;;/h3-4,6-10,16-18,24H,1-2,5,11-15,19H2,(H2,33,39)(H,35,38);3*1H
